US07728018B2
Acetic acid 2-ethyl-3-oxo-butyl ester
3-Hydroxymethyl-pentan-2-one (20.7 g) was dissolved in CHCl3 (150 mL) and cooled in an ice bath. Acetic anhydride (80 mL) was added, followed by DMAP (2.18 g), and the mixture was stirred overnight at room temperature. After cooling in an ice bath, MeOH (120 mL) was added dropwise, and the mixture was poured into a saturated aqueous NaHCO3 solution. After extraction with DCM twice, the combined organic phases were dried over Na2SO4 and evaporated under reduced pressure to give 28.0 g of a light-yellow liquid. 1H NMR (400 MHz, CDCl3) δ 0.93 (t, J=8 Hz, 3H), 1.46-1.75 (m, 2H), 2.03 (s, 3H), 2.20 (s, 3H), 2.77 (quint., J=6.5 Hz, 1H), 4.20 (d, J=7 Hz, 3H).

reactant | 3-Hydroxymethyl-pentan-2-one | 20.7 g | OCC(C(C)=O)CC | C6H12O2
reactant | Acetic anhydride | 80 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | MeOH | 120 mL | CO | CH4O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CHCl3 | 150 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | DMAP | 2.18 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | Acetic acid 2-ethyl-3-oxo-butyl ester | 28.0 g | C(C)C(COC(C)=O)C(C)=O | C8H14O3
